US08791108B2
To a solution of (S,E)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-5-methyl-7-(4-methylpent-1-en-1-yl)pyrazolo[1,5-a]pyrimidine-2-carboxylate (190 mg, 0.426 mmol) in EtOH (4 mL) was added 1N NaOH (0.426 mL, 0.426 mmol) and the resulting mixture was stirred at room temp for 4 h. At this point LCMS indicated completion of reaction. Solvents were then removed under reduced pressure and the mixture was diluted with water (3 mL), acidified with 1N HCl, extracted with ethyl acetate (25 mL), washed with brine (10 mL), dried (Na2SO4), filtered and concentrated to afford (S,E)-6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-5-methyl-7-(4-methylpent-1-en-1-yl)pyrazolo[1,5-a]pyrimidine-2-carboxylic acid (145 mg, 0.347 mmol, 81% yield) as light yellow solid. 1H NMR (500 MHz, CDCl3) δ 7.20 (s, 1H), 7.01 (d, J=16.1 Hz, 1H), 6.90 (br. s., 1H), 5.57 (s, 1H), 4.48 (d, J=7.3 Hz, 1H), 4.30-4.22 (m, 2H), 2.72 (br. s., 3H), 2.00-1.85 (m, 1H), 1.32-1.25 (m, 3H), 1.18 (s, 9H), 1.10-0.97 (m, 6H). LCMS (M+H)=418.4.

reactant | (S,E)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-5-methyl-7-(4-methylpent-1-en-1-yl)pyrazolo[1,5-a]pyrimidine-2-carboxylate | 0.426 mmol, 190 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1\C=C\CC(C)C)N=C(C2)C(=O)OCC)C | C24H35N3O5
reactant | NaOH | 0.426 mmol, 1N, 0.426 mL | [OH-].[Na+]
solvent | EtOH | 4 mL | CCO | C2H6O
product | (S,E)-6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-5-methyl-7-(4-methylpent-1-en-1-yl)pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.347 mmol, 145 mg, 81% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1\C=C\CC(C)C)N=C(C2)C(=O)O)C | C22H31N3O5
